US06747023B1
2-tert-Butoxycarbonyl-6-hydroxy -1,2,3,4-tetrahydroisoquinoline
In methanol (100 ml), 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (7.87 g) was dissolved. To the resulting solution, triethylamine (4.67 ml) and di-tert-butyl dicarbonate (13.95 g) were added, followed by stirring at room temperature for 3 hours. Ethyl acetate was added to the residue obtained by concentration of the reaction mixture under reduced pressure. The resulting mixture was washed with 1N hydrochloric acid, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate 10:1 to 3:1), whereby the title compound (9.96 g, 94%) was obtained.

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 7.87 g | Cl.OC=1C=C2CCNCC2=CC1
reactant | triethylamine | 4.67 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 13.95 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 100 ml | CO | CH4O
product | 2-tert-Butoxycarbonyl-6-hydroxy -1,2,3,4-tetrahydroisoquinoline | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
